US07745483B2
Under protective gas (argon), 0.56 ml (3.38 mmol) of N,N-diisopropylethylamine and 1.18 g (2.5 mmol) of bromotrispyrrolidinophosphonium hexafluorophosphate (PyBrop) are added to a solution of 483 mg (2.02 mmol) of 2-iodofuran-3-carboxylic acid and 300 mg (1.7 mmol) of 2-(1,3-dimethylbutyl)phenylamine in 10 ml of acetonitrile. The reaction mixture is stirred at room temperature for 24 hours and, for work-up, added to water, extracted with ethyl acetate, dried over sodium sulphate and concentrated under reduced pressure. Column chromatography (cyclohexane/ethyl acetate gradient) gives 130 mg (18% of theory) of N-[2-(1,3-dimethylbutyl)phenyl]-2-iodo-3-furamide [log P (pH 2.3)=3.88].

reactant | N,N-diisopropylethylamine | 3.38 mmol, 0.56 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromotrispyrrolidinophosphonium hexafluorophosphate | 2.5 mmol, 1.18 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | 2-iodofuran-3-carboxylic acid | 2.02 mmol, 483 mg | IC=1OC=CC1C(=O)O | C5H3IO3
reactant | 2-(1,3-dimethylbutyl)phenylamine | 1.7 mmol, 300 mg | CC(CC(C)C)C1=C(C=CC=C1)N | C12H19N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | N-[2-(1,3-dimethylbutyl)phenyl]-2-iodo-3-furamide | 130 mg, pH 2.3, 18% | CC(CC(C)C)C1=C(C=CC=C1)NC(=O)C1=C(OC=C1)I | C17H20INO2
